US04025349
EXAMPLE 6: Preparation of 1,3-Diethyl-5-[(1,3-diethylimidazo[4,5-b]quinoxalin-2-ylidene)]vinylidene-2-thiobarbituric acid.
A solution of 1,3-Diethyl-1,2-dihydro-2-methyleneimidazo[4,5-b]quinoxaline (6.0 g, 0.025 mol), 1,3-diethyl-2-thiobarbituric acid (5.0 g, 0.025 mol) and carbon tetrabromide (8.3 g, 0.025 mol) in benzene (60 ml) is warmed to 50°-55°, at which point an exothermic reaction occurs, with separation of solid. The mixture is allowed to cool, then filtered. The filtrate is evaporated to dryness, the residue treated with methanol (50 ml), and the solid dye collected. Treatment of the filtrate with triethylamine (5 ml) yields a further portion of dye. The dye is purified by precipitation from chloroform solution by addition of methanol. The yield of purified dye is 0.50 g, mp indistinct. The yield can be improved by using the quaternary salt and conducting the reaction in the presence of triethylamine.

reactant | 1,3-Diethyl-1,2-dihydro-2-methyleneimidazo[4,5-b]quinoxaline | 0.025 mol, 6.0 g | C(C)N1C(N(C=2C1=NC1=CC=CC=C1N2)CC)=C | C14H16N4
reactant | 1,3-diethyl-2-thiobarbituric acid | 0.025 mol, 5.0 g | C(C)N1C(=S)N(C(=O)CC1=O)CC | C8H12N2O2S
reactant | carbon tetrabromide | 0.025 mol, 8.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Diethyl-5-[(1,3-diethylimidazo[4,5-b]quinoxalin-2-ylidene)]vinylidene-2-thiobarbituric acid | C(C)N1C(=S)N(C(=O)C(C1=O)=C=C=C1N(C=2C(=NC3=CC=CC=C3N2)N1CC)CC)CC | C23H24N6O2S
